US05244863
A solution of 2-ethoxycarbonylimino-3-(3-trifluoromethylphenyl)thiazoline (0.5 g) and N-iodosuccinimide (0.4 g) in chloroform (30 ml) was refluxed for 20 hours. After cooling, the reaction mixture was washed with an aqueous sodium sulfite solution and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was subjected to column chromatography to give 0.1 of 2-ethoxycarbonylimino-3-(3-trifluoromethylphenyl)-5-iodothiazoline (Compound No. 42).

reactant | 2-ethoxycarbonylimino-3-(3-trifluoromethylphenyl)thiazoline | 0.5 g | C(C)OC(=O)N=C1SC=CN1C1=CC(=CC=C1)C(F)(F)F | C13H11F3N2O2S
reactant | N-iodosuccinimide | 0.4 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-ethoxycarbonylimino-3-(3-trifluoromethylphenyl)-5-iodothiazoline | C(C)OC(=O)N=C1SC(=CN1C1=CC(=CC=C1)C(F)(F)F)I | C13H10F3IN2O2S
